US06852731B2
1-{4-[(Dimethylamino)methyl]phenyl}-2-(methylamino)ethanol
To a solution of HCl-dioxane (20 mL, 4.0 M HCl in dioxane) was added tert-butyl 2-{4-[(dimethylamino)methyl]phenyl}-2-hydroxyethyl(methyl)carbamate (124 mg, 0.40 mmol). The mixture was stirred at room temperature for 16 hours. The solvent and HCl was evaporated. After treated with high vacuum for 15 minutes, the residue was dissolved in methanol (2 mL) and treated with resin (BioRad 50w×2, 0.20 g) for 3 hours. The resin was collected by filtration and washed with methanol. The product on the resin was washed off with NH4OH/CH3OH (20 mL, 10% ammonium hydroxide aqueous solution (Aldrich, 29.4% NH3) in methanol). The solution was concentrated to dryness, and treated with high vacuum to give the title compound (89 mg) as an oil.

reactant | tert-butyl 2-{4-[(dimethylamino)methyl]phenyl}-2-hydroxyethyl(methyl)carbamate | 0.40 mmol, 124 mg | CN(C)CC1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C)O | C17H28N2O3
solvent | HCl dioxane | 4.0 M, 20 mL | Cl.O1CCOCC1
product | 1-{4-[(Dimethylamino)methyl]phenyl}-2-(methylamino)ethanol | 89 mg | CN(C)CC1=CC=C(C=C1)C(CNC)O | C12H20N2O
